US04703097
γ-Methacryloxypropyl-tris (trimethylsiloxy)silane (TRIS) was prepared by hydrolysis of 0.1 mole of γ-methacryloxypropyl-trimethoxysilane (MEMO) and 0.35 mole of chlorotrimethylsilane and subsequent distillation following the same procedure as in Example (a).

reactant | γ-methacryloxypropyl-trimethoxysilane | 0.1 mole | C(C(=C)C)(=O)OCCC[Si](OC)(OC)OC | C10H20O5Si
reactant | chlorotrimethylsilane | 0.35 mole | Cl[Si](C)(C)C | C3H9ClSi
product | γ-Methacryloxypropyl-tris (trimethylsiloxy)silane | C(C(=C)C)(=O)OCCC[Si](O[Si](C)(C)C)(O[Si](C)(C)C)O[Si](C)(C)C | C16H38O5Si4
